US06734302B2
Iodine (6.35 g, 25 mmol) in methylene chloride (300 mL) was added dropwise over 3 h to a stirred suspension of thallium(I) acetate (7.90 g, 30 mmol) and 3-dimethylaminophenol (3.43 g, 25 mmol) in methylene chloride (300 mL). The resulting mixture was stirred at room temperature for 24 h and filtered. Evaporation of the solvents and chromatography of the residue over silica gel using 0-5% diethyl ether in hexanes gave 5-dimethylamino-2-iodophenol (2.35 g, 36%).

reactant | Iodine | 25 mmol, 6.35 g | II | I2
reactant | thallium(I) acetate | 30 mmol, 7.90 g | C(C)(=O)[O-].[Tl+]
reactant | 3-dimethylaminophenol | 25 mmol, 3.43 g | CN(C=1C=C(C=CC1)O)C | C8H11NO
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 5-dimethylamino-2-iodophenol | 2.35 g, 36% | CN(C=1C=CC(=C(C1)O)I)C | C8H10INO
